US05124324
(1-Methyl-2-piperidyl)methyl 1-methylindole-3-carboxylate
To a DMF (10 ml) suspension of 60% sodium hydride (0.09 g, 2.3 mmol) was dropwise added a DMF (5 ml) solution of (1-methyl-2-piperidyl)methyl 1H-indole-3-carboxylate (0.50 g, 1.8 mmol) at room temperature over a period of 5 min. Onto the reaction mixture stirred for 15 min. was poured a THF (5 ml) solution of methyl iodide (0.29 g, 2.0 mmol). After stirring overnight, a reaction solution was poured onto water followed by extraction with EtOAc. The organic layer was washed successively with water and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The crude product thus produced was purified by column chromatography on silica gel (20 g, CHCl3) to give 0.43 g of the title compound as a colorless oil.

reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | sodium hydride | 2.3 mmol, 0.09 g | [H-].[Na+]
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | (1-methyl-2-piperidyl)methyl 1H-indole-3-carboxylate | 1.8 mmol, 0.50 g | N1C=C(C2=CC=CC=C12)C(=O)OCC1N(CCCC1)C | C16H20N2O2
reactant | methyl iodide | 2.0 mmol, 0.29 g | CI | CH3I
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (1-Methyl-2-piperidyl)methyl 1-methylindole-3-carboxylate | 0.43 g | CN1C=C(C2=CC=CC=C12)C(=O)OCC1N(CCCC1)C | C17H22N2O2
